US08053438B2
A 1 L heavy wall vessel equipped with a magnetic stir bar flask was charged with (1H-benzo[d]imidazol-2-yl)(4-(3-(3,6-dihydro-2H-pyran-4-yl)pyrazin-2-yloxy)phenyl)methanone (1.00 g, 2.26 mmol), ammonium formate (3.16 g, 50 mmol), THF (125 mL) and MeOH (125 mL). Nitrogen was bubbled into the mixture for 15 mins. The mixture was kept under nitrogen and treated with Pd/C (0.267 g, 0.251 mmol). The vessel was capped and the reaction was stirred at 75° C. After 5 hours, the reaction was cooled down to RT. An aliquot was analyzed via LC-MS showed the reaction was incomplete. The reaction was filtered through celite and the filtrate was transferred back to the reaction vessel. An additional 4.15 g of ammonium formate and 0.350 of 10% Pd/C was added to the reaction under nitrogen. The vessel capped again and heated to 75° C. overnight. The reaction was cooled down and filtered through a pad of celite. The filtrate was reduced under vacuum. The residue obtained was portioned with DCM and water. The organic layer was washed (2×) with an aqueous saturated solution of sodium bicarbonate, then with water and then brine. The organic layer was then dried with sodium sulfate reduced. The volatiles were removed under vacuum. The residue obtained was triturated with hot MeOH, filtered and dried in a vacuum oven to give (1H-benzo[d]imidazol-2-yl)(4-(3-(tetrahydro-2H-pyran-4-yl)pyrazin-2-yloxy)phenyl)methanol as a white solid. [M+1] 402.9.

reactant | (1H-benzo[d]imidazol-2-yl)(4-(3-(3,6-dihydro-2H-pyran-4-yl)pyrazin-2-yloxy)phenyl)methanone | 2.26 mmol, 1.00 g | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)OC2=NC=CN=C2C=2CCOCC2 | C23H18N4O3
reactant | ammonium formate | 50 mmol, 3.16 g | C(=O)[O-].[NH4+]
reactant | THF | 125 mL | C1CCOC1 | C4H8O
reactant | MeOH | 125 mL | CO | CH4O
catalyst | Pd/C | 0.251 mmol, 0.267 g | [Pd] | Pd
solvent | water | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (1H-benzo[d]imidazol-2-yl)(4-(3-(tetrahydro-2H-pyran-4-yl)pyrazin-2-yloxy)phenyl)methanol | N1C(=NC2=C1C=CC=C2)C(O)C2=CC=C(C=C2)OC2=NC=CN=C2C2CCOCC2 | C23H22N4O3
